US07582773B2
Step 5: Synthesis of 1-Methyl-3-pentyl-2-phenyl-5-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole.
The desired product was prepared using a procedure similar to step 6 of example 3. Thus, [4-(1-methyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile (0.152 g, 0.372 mmol) was reacted with NaN3 (0.121 g, 1.860 mmol) and NH4Cl (0.099 g, 1.860 mmol) in DMF (5 ml) to give the product (0.117 g, 0.259 mmol, 70%) as a white solid, dec. 181-185° C. 1H NMR (DMSO-d6) δ 0.76 (t, J=7.0 Hz, 3H), 1.13-1.22 (m, 4H), 1.51-1.57 (m, 2H), 2.66 (t, J=7.5 Hz, 2H), 3.56 (s, 3H), 5.53 (s, 2H), 7.15 (d, J=8.7 Hz, 2H), 7.42-7.45 (m, 3H), 7.48 (t, J=8.6 Hz, 2H), 7.54 (t, J=7.2 Hz, 2H), 7.65 (d, J=8.7 Hz, 2H), 7.74 (d, J=1.2 Hz, 1H), 16.80 (broad s, 1H); IR (solid) 3030, 2930, 2860, 1605, 1520, 1480, 1370 and 1240 cm−1; [ESI(−)], m/z 450 (M−H)−; Anal. Calcd. for C28H29N5O: C, 74.48; H, 6.47; N, 15.51 Found: C, 74.49; H, 6.26; N, 15.30.

reactant | [4-(1-methyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile | 0.372 mmol, 0.152 g | CN1C(=C(C2=CC(=CC=C12)C1=CC=C(OCC#N)C=C1)CCCCC)C1=CC=CC=C1 | C28H28N2O
reactant | NaN3 | 1.860 mmol, 0.121 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 1.860 mmol, 0.099 g | [NH4+].[Cl-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-Methyl-3-pentyl-2-phenyl-5-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole | CN1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OCC1=NN=NN1)CCCCC)C1=CC=CC=C1 | C28H29N5O
